Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
Augmentin
 
Attending: ___.
 
Chief Complaint:
"I went to my outpatient appointment and was
sent here. I tried to kill myself two weeks ago." 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year old male college student at
___ with a past psych history of 6 prior
suicide attempts reportedly beginning at age ___ and no outpatient
treatment until this year who is admitted to the inpatient
psychiatric unit after being sectioned to the BI ___ by the
___ after disclosing a suicide 
attempt
he made two weeks ago. 

Per Dr. ___ consult note from  ___:

"The patient reports that he has made several attempts to kill
himself and that these attempts are usually impulsive, that he
doesn't plan them more than a few hours in advance. He states
that the most recent was 2 weeks ago, when he took ___ gms of a
substance called phenibut which he purchases online for
recreational use, drank vodka, and stood with his head in a 
noose
he made out of shoelaces planning to pass out and be strangled.
He notes that he had been using phinibut and vodka prior to
deciding to make the noose. He chose the amount to take and 
drink
based on a previous failed suicide attempt by the same method, 
he
tried to double the amount that he has used that time. When he
realized he was not going to die, he went to bed. He disclosed
this attempt to his brother, who told him not to kill himself
again. Neither of them sought medical or psychiatric
attention at that time. 

He reports that he has made 6 attempts over the course of his
lifetime, the earliest one around age ___ when he tried to jump 
out
a window but was stopped by his mother. In middle school, he
tried cutting his neck (noting that he tried to cut 
horizontally)
but this did not work, and then the senior year of high school 
he
tried cutting his neck this time using a vertical approach. He
then reports having tried to stab himself in the chest in
college. He reports having tried to hang himself while
intoxicated with phenibut and alcohol one time prior to the
attempt two weeks ago. 

He also reports self injurious behavior throughout his life (not
intending to die) such as holding cold snow against his wrist
until it hurt, hitting himself in the arms, scratching his
stomach with the point of a knife, drawing blood, and hitting 
his
arms with a knife blade." 

On interview upon arrival to the unit, the patient confirms the
above history. He states that for "most of my life I'd have
rather been dead" and cannot identify a specific trigger or
stressor that lead to his most recent suicide attempt a couple
weeks ago. He states that he had been feeling badly earlier that
day and started drinking vodka and using phenibut, which he says
helps him feel "less stressed and somewhat happier." He was
unable to specify the frequency and quantity of his drug use,
saying that it "varies widely." 

When asked about his previous suicide attempts, he states that 
he
had never sought help before because he did not want to, and he
has never been hospitalized previously. He states that "I feel
annoyed at myself" when his suicide attempts fail and decided to
see a therapist and get help this year at ___ because 
"I
wanted to stop feeling bad about myself." He does not currently
have active SI, saying "I have no strong conviction for dying"
right now but am "not opposed to dying." He also states that his
parents are unaware of his psychiatric history and would rather
not involve them. He is close to his brother in ___ who 
is
aware of his condition.
He has not taken any psychiatric medications before but would be
open to starting some now.

He endorses low energy, impaired concentration with stress, and
states that he sleeps ___ hours when working and ___ hours on
the weekends. He denies AH/VH, denies paranoia, and denies IOR 
or
thought broadcasting or thought insertion. 

PAST PSYCHIATRIC HISTORY: Per Dr. ___ (___),
confirmed with patient

 Hospitalizations: Denies 
 Past diagnoses: Denies, notes he had a speech impediment 
growing
up 
 Medication and ECT trials: Uses phenibut off the internet, has
never been prescribed anything
 Current treaters and treatment: Has recently been seen at
___ 4 times, has not followed up on
their referrals to outpatient psychiatrist or therapist yet
 Suicide attempts: 6 total - the earliest one around age ___ when
he tried to jump out a window but was stopped by his mother. In
middle school, he tried cutting his neck (noting that he tried 
to
cut horizontally) but this did not work, and then the senior 
year
of high school he tried cutting his neck this time using a
vertical approach. He then reports having tried to stab himself
in the chest in college. He reports having tried to hang himself
while intoxicated with phenibut and alcohol one time prior to 
the
attempt two weeks ago, then the attempt two weeks ago also with 
a
noose, phenibut and alcohol where he doubled the amount of both
substances
 Self-injury: holding cold snow against his wrist until it hurt,
hitting himself in the arms, scratching his stomach with the
point of a knife, drawing blood, and hitting his arms with a
knife blade. 
 Trauma: Patient reports being bullied in middle school 
verbally,
denies history of physical or sexual abuse. 
 Harm to others: denies
 Access to weapons: denies access to firearms, has tried to kill
himself before with kitchen knife 
 
Past Medical History:
None
 
Social History:
___
Family History:
 Psychiatric illness: Reports father is "high strung" and that
his family believes his grandfather is depressed
 ___
Substance use: Reports his great grandparents on both sides were
alcoholics, also has a ___ with alcohol use disorder and
possibly other substances as well
 
Physical Exam:
___ 1051 T 98.3 BP 142 / 85 HR 80 RR 18 O2 sat 98   
General: College-age male in NAD. Well-nourished, 
well-developed.
Appears stated age.
HEENT: Normocephalic, atraumatic. EOMI. 
Back: No significant deformity.
Lungs: CTA ___. No crackles, wheezes, or rhonchi.
CV: RRR, no murmurs/rubs/gallops. 
Abdomen: +BS, soft, nontender, nondistended. No palpable masses
or organomegaly.
Extremities: No clubbing, cyanosis, or edema.
Skin: No rashes, abrasions, scars, or lesions. 

Neurological:
 Cranial Nerves:
EOMI intact ___ without nystagmus.
Facial strength and sensation intact and symmetric.
Hearing grossly intact
No dysarthria
Sternocleidomastoid and trapezius normal bilaterally.
Tongue midline without fasciculations.
Normal bulk and tone bilaterally. No abnormal movements, no
tremor. 
 Strength: full power ___ throughout. Sensation: Intact to light
touch throughout. 
 Gait: Steady. Normal stance and posture. No truncal ataxia.

Cognition: 
  Wakefulness/alertness: awake and alert
  Attention: intact to interview
  Orientation: oriented to person, time, place, situation
  Executive function (go-no go, Luria, trails, FAS): not tested
  Memory: intact to recent and past history
  Fund of knowledge: consistent with education
  Calculations: 7 quarters in $1.75
  Abstraction: not assessed
  Visuospatial: not assessed
  Speech: slow rate, monotone, some speech latency 
  Language: native ___ speaker, no paraphasic errors,
appropriate to conversation

Mental Status:
 Appearance: No apparent distress, appears stated age, well
groomed, dressed in hospital gown
 Behavior: Minimal to no eye contact, difficult to engage but
cooperative, no psychomotor agitation or retardation
 Mood and Affect: "Not depressed" / Flat
 Thought Process: linear, coherent, goal-oriented. No LOA.
 Thought Content: states that he is "not opposed" to dying but
denies active SI, denies HI/AH/VH, no evidence of delusions or
paranoia
 Judgment and Insight: poor/poor

 
Pertinent Results:
___ 08:00PM BLOOD WBC-8.5 RBC-5.43 Hgb-15.8 Hct-45.6 MCV-84 
MCH-29.1 MCHC-34.6 RDW-12.5 RDWSD-38.3 Plt ___
___ 06:47AM BLOOD UreaN-16 Creat-0.9 Na-143 K-4.7 Cl-104 
HCO3-27 AnGap-12
___ 06:47AM BLOOD ALT-22 AST-20 AlkPhos-92 TotBili-0.7
___ 06:47AM BLOOD Calcium-9.5 Phos-4.5 Mg-2.2 Cholest-153
___ 06:47AM BLOOD VitB12-454
___ 06:47AM BLOOD %HbA1c-4.7 eAG-88
___ 06:47AM BLOOD Triglyc-55 HDL-51 CHOL/HD-3.0 LDLcalc-91
___ 06:47AM BLOOD TSH-1.1
___ 06:47AM BLOOD PTH-33
___ 08:00PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 08:08PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission, the patient refused to sign a conditional 
voluntary agreement and was admitted on a ___, which 
expired on ___.  At that time the patient was not deemed to 
be at risk of harm to self/others, so the patient was 
discharged.  On admission, he was were also placed on q5 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted. There were 
no behavioral concerns requiring restraint or seclusion during 
hospitalization. 

2. PSYCHIATRIC:
On admission, patient reported multiple previous suicide 
attempts, however denied active SI. He reported depression since 
childhood, and reported decreased level of energy and decreased 
concentration. He endorsed anxiety and described symptoms of 
panic attacks, including intense anxiety, discomfort in 
chest/stomach, developing diarrhea, nausea. MSE was notable for 
very poor eye contact, decreased motor activity, decreased rate 
of speech, and a flat affect. The patient was started on Zoloft 
25 mg daily and Risperdal 0.5 mg QHS, which he tolerated well. 
He reported an improved mood and consistently denied SI 
throughout hospitalization. 

3. SUBSTANCE USE DISORDERS:
Patient reported using phenibut, kava, and kratum that he buys 
off of the internet, and states that he uses these to feel 
relaxed. He was open to discussing how these substances may 
affect his mood. He reported that with improvement with mood, he 
would abstain from using substances. Patient was encouraged to 
continue to follow up with outpatient psychiatry. 

4. MEDICAL
There were no acute medical issues during admission. 

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. Patient 
initially declined to participate in groups, however ultimately 
did attend groups. He was noted to be withdrawn but pleasant 
upon approach. There were no behavioral concerns during 
admission. 

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT:

The team spoke with the patient's brother, ___ 
(___) ***

#) Guardianship: N/A

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting Zoloft and Risperdal, and risks and benefits of 
possible alternatives, including not taking the medications, 
with this patient. We discussed the patient's right to decide 
whether to take this medication as well as the importance of the 
patient's actively participating in the treatment and discussing 
any  questions about medications with the treatment team, and I  
answered the patient's questions.  The patient appeared able to 
understand and consented to begin the medication.

On ___, Mr. ___ denied any complains. He reported:"Meds seem 
to be working...I feel good". He denied to experience feeling 
"of emptiness" for several days. He clearly denied S/Is.
Mr. ___ declined offer of the team to contact his parents. 
However, he agreed to have telephone conference call with his 
brother (Mr. ___ ___. On ___, 
telephone conference call was held patient was in the room with 
the treatment team when brother was called. Brother had 
opportunity to share his concerns abt pt's condition ("was 
depressed to the point of being suicidal"). Brother visited pt 
on the unit over the weekend. He also was in touch with pt via 
phone. Brother has felt that pt's condition is improving. He 
felt comfortable with patients discharge.

RISK ASSESSMENT
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to himself based upon SI.  His static 
factors noted at that time included male gender, age, single 
status, and previous suicide attempts. His modifiable risk 
factors included active substance abuse, lack of outpatient 
treaters, intermittent SI, and lack of psychosocial supports. 
During hospitalization, patient was started on Zoloft and 
Risperdal. He reported improvement in his mood and denied SI at 
discharge. He was able to discuss abstaining from substances. He 
was set up with outpatient psychiatric follow up. The patient is 
being discharged with many protective risk factors, including 
stable housing, no access to firearms, outpatient follow up, and 
no SI.  Overall, based on the totality of our assessment at this 
time, the patient is not at an acutely elevated risk of 
self-harm nor danger to others. 

Protective factors: stable housing, no access to firearms

Our Prognosis of this patient is guarded. With outpatient 
psychiatric treatment and taking medications as prescribed, pt's 
prognosis is likely to improve.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  RisperiDONE 0.5 mg PO QHS 
RX *risperidone [Risperdal] 0.5 mg one tablet(s) by mouth at 
bedtime Disp #*15 Tablet Refills:*0 
2.  Sertraline 25 mg PO QAM depression 
RX *sertraline 25 mg one tablet(s) by mouth daily Disp #*15 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major depressive disorder, recurent, severe
unspecified anxiety disorder

 
Discharge Condition:
Appearance: No apparent distress, appears stated age, well
groomed, dressed casual street clothes
 Behavior: fair eye contact, calm, cooperative
 Mood and Affect: 'I feel good'...'Meds seem to be working'
 Thought Process: linear, coherent, goal-oriented. No LOA.
 Thought Content: denies SI/HI, no evidence of delusions
or paranoia. He shared about positive plans for  future.
 Judgment and Insight: fair/fair

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___